US07253192B2
C] 5-(4-Trifluoromethoxy-phenyl)-pent-4-ynoic acid methoxy-methyl-amide
A solution of 1.00 g (3.87 mmol) of 5-(4-trifluoromethoxy-phenyl)-pent-4-ynoic acid (example 29D]) in 50 ml CH2Cl2 was treated with 0.45 g (4.65 mmol) N,O-dimethylhydroxylamine hydrochloride, 0.55 ml (5.03 mmol) N-methylmorpholine and at 0° C. with 0.97 g (5.03 mmol) N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (EDCI). The reaction was naturally warmed to ambient temperature over night and partitioned between aqueous 10% KHSO4/ether (three times). The organic phases were washed with aqueous saturated NaHCO3, 10% NaCl and dried (Na2SO4) to give 1.165 g of the title compound as brown oil.

reactant | 5-(4-trifluoromethoxy-phenyl)-pent-4-ynoic acid | 3.87 mmol, 1.00 g | FC(OC1=CC=C(C=C1)C#CCCC(=O)O)(F)F | C12H9F3O3
reactant | N,O-dimethylhydroxylamine hydrochloride | 4.65 mmol, 0.45 g | Cl.CNOC
reactant | N-methylmorpholine | 5.03 mmol, 0.55 ml | CN1CCOCC1 | C5H11NO
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 5.03 mmol, 0.97 g | Cl.CN(CCCN=C=NCC)C
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | 5-(4-Trifluoromethoxy-phenyl)-pent-4-ynoic acid methoxy-methyl-amide | 1.165 g | CON(C(CCC#CC1=CC=C(C=C1)OC(F)(F)F)=O)C | C14H14F3NO3
